US07786308B2
3-{4-[(4-Fluoro-phenyl)-methanesulfonyl-amino]-piperidin-1-yl}-8-aza-bicyclo[3.2.1]octane-8-carboxylic acid ethyl ester (Compound No. 71)
3-[4-(4-fluoro-phenylamino)-piperidin-1-yl]-8-aza-bicyclo[3.2.1]octane-8-carboxylic acid ethyl ester (25 mg; 0.07 mmol; 1 eq.) was dissolved in dry prydine (2 mL) and MsCl (19 mg; 2.5 eq.) was added. The reaction mixture was heated to 80° C. and stirred under N2 overnight. The solution was diluted with DCM (10 mL) and washed with saturated NaHCO3 (2×20 mL). The organic layer was dried over Na2SO4, filtered, and concentrated under high vacuum to provide the product as an oil. The crude residue was purified by reversed-phase HPLC (2-99% CH3CN/water gradient with 0.05% TFA). LC/MS M/Z 454.2, Retention time=1.88 minutes; 10-99% CH3CN/H2O gradient with 0.05% TFA.

reactant | 3-[4-(4-fluoro-phenylamino)-piperidin-1-yl]-8-aza-bicyclo[3.2.1]octane-8-carboxylic acid ethyl ester | 0.07 mmol, 25 mg, 1 eq. | C(C)OC(=O)N1C2CC(CC1CC2)N2CCC(CC2)NC2=CC=C(C=C2)F | C21H30FN3O2
reactant | MsCl | 19 mg, 2.5 eq. | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 3-{4-[(4-Fluoro-phenyl)-methanesulfonyl-amino]-piperidin-1-yl}-8-aza-bicyclo[3.2.1]octane-8-carboxylic acid ethyl ester | C(C)OC(=O)N1C2CC(CC1CC2)N2CCC(CC2)N(S(=O)(=O)C)C2=CC=C(C=C2)F | C22H32FN3O4S
